US08604062B2
(4-Hydroxy-piperidin-1-yl)-[6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridin-3-yl]-methanone
To a solution of 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid (100 mg, 0.32 mmol) in DMF (2 mL) were added 2-(1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate (114 mg, 0.35 mmol), N,N-diisopropyl ethyl amine (275 μL, 1.6 mmol) and 4-hydroxypiperidine (1 M solution in MeOH, 354 μL, 0.35 mmol). The resulting reaction mixture was stirred overnight at room temperature. Concentration and purification by chromatography (SiO2, heptane:ethyl acetate=100:0 to 1:1) afforded the title compound (93 mg, 73%) which was obtained as a white solid. MS: m/e=394.2 [M+H]+.

reactant | 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid | 0.32 mmol, 100 mg | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=NC=C(C(=O)O)C=C1 | C17H14N2O4
reactant | 2-(1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate | 0.35 mmol, 114 mg | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | N,N-diisopropyl ethyl amine | 1.6 mmol, 275 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-hydroxypiperidine | 0.35 mmol, 1 M, 354 μL | OC1CCNCC1 | C5H11NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | (4-Hydroxy-piperidin-1-yl)-[6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridin-3-yl]-methanone | 93 mg, 73% | OC1CCN(CC1)C(=O)C=1C=NC(=CC1)OCC=1C(=NOC1C)C1=CC=CC=C1 | C22H23N3O4
